US06858599B2
Synthesis of ethyl 2-[(2,2-diethoxyethyl)amino]acetate
To a suspension of the glycine ethyl ester hydrochloride (1.00 g) and bromoacetaldehyde diethyl acetal (1.08 ml) in N,N-dimethylformamide (30 ml), were added cesium carbonate (4.67 g) and sodium iodide (107 mg) and the mixture was stirred at 100° C. for 4 hours. The reaction mixture was adjusted to pH 2 with 1N hydrochloric acid and washed with ethyl acetate. The aqueous layer was adjusted to pH 11 with 1N aqueous solution of sodium hydroxide and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and thereafter the solvent was distilled off under reduced pressure to obtain the title compound (860 mg).

reactant | glycine ethyl ester hydrochloride | 1.00 g | Cl.C(C)OC(CN)=O
reactant | bromoacetaldehyde diethyl acetal | 1.08 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | cesium carbonate | 4.67 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 107 mg | [I-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[(2,2-diethoxyethyl)amino]acetate | 860 mg | C(C)OC(CNCC(=O)OCC)OCC | C10H21NO4
